US06316389B1
H-9: Methyl(2-chloromethyl-4,5-dimethylcyclohexa-1,4-dienyl)methoxyiminoacetate
1.4 ml of ethyl chloroformate are added to a solution of 2.3 g methyl (4,5-dimethyl-2-morpholin-4-ylmethylcyclohexa-1,4-dienyl)methoxyiminoacetate in 25 ml of THF. The mixture is now heated for 20 hours at 70°. After the mixture has been evaporated, the residue is chromatographed on silica gel (ether/hexane 1:2). This gives 1.5 g of crystals of the title compound of melting point 65-68°.

reactant | ethyl chloroformate | 1.4 ml | ClC(=O)OCC | C3H5ClO2
reactant | methyl (4,5-dimethyl-2-morpholin-4-ylmethylcyclohexa-1,4-dienyl)methoxyiminoacetate | 2.3 g | CC=1CC(=C(CC1C)CON=CC(=O)OC)CN1CCOCC1 | C17H26N2O4
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | Methyl(2-chloromethyl-4,5-dimethylcyclohexa-1,4-dienyl)methoxyiminoacetate | COC(C=NOCC1=C(CC(=C(C1)C)C)CCl)=O | C13H18ClNO3
